US06436929B1
6-(3-Chloro-4-fluoro-phenyl)-4,4-dimethyl-1,4-dihydro-benzo[d][1,3]oxazin-2-one was prepared, from 6-bromo-4,4-dimethyl-1,4-dihydro-benzo[d][1,3]oxazin-2-one and 1-bromo-3-chloro-4-fluorobenzene according to Procedure A, as a white solid: mp 211-212° C.; 1H-NMR (DMSO-d6) δ10.4 (s, 1H), 7.92 (dd, 1H, J=7.13, 2.19 Hz), 7.71-7.66 (m, 1H), 7.60-7.57 (m, 2H), 7.49 (t, 1H, J=8.95 Hz), 6.96 (d, 1H, J=8.01 Hz), 1.67 (s, 6H); MS (EI) m/z 305 ([M+H]+, 20%); Anal. Calc. For C16H13ClFNO2: C, 62.86; H, 4.29; N, 4.58. Found: C., 62.52; H, 4.45; N, 4.42.

reactant | 6-bromo-4,4-dimethyl-1,4-dihydro-benzo[d][1,3]oxazin-2-one | BrC1=CC2=C(NC(OC2(C)C)=O)C=C1 | C10H10BrNO2
reactant | 1-bromo-3-chloro-4-fluorobenzene | BrC1=CC(=C(C=C1)F)Cl | C6H3BrClF
product | 6-(3-Chloro-4-fluoro-phenyl)-4,4-dimethyl-1,4-dihydro-benzo[d][1,3]oxazin-2-one | ClC=1C=C(C=CC1F)C1=CC2=C(NC(OC2(C)C)=O)C=C1 | C16H13ClFNO2
